US07919528B2
N-[(R)-2-(N′-Benzo[1,3]dioxol-5-yl-methyl-hydrazinocarbonyl)-heptyl]-N-hydroxy-formamide
To a solution of N-[(R)-2-(N′-Benzo[1,3]dioxol-5-yl-methyl-hydrazinocarbonyl)-heptyl]-N-benzyloxy-formamide (0.221 g, 0.501 mmol) in EtOH (10 mL) was added 10% Pd/C (50 mg). The mixture was subjected to hydrogenation for 5 h at room temperature. The mixture was filtered through Celite. The filtrate was evaporated and purified by HPLC to afford the title compound (0.10 g, 57%) in a white solid. MH+352.

reactant | N-[(R)-2-(N′-Benzo[1,3]dioxol-5-yl-methyl-hydrazinocarbonyl)-heptyl]-N-benzyloxy-formamide | 0.501 mmol, 0.221 g | O1COC2=C1C=CC(=C2)N(NC(=O)[C@@H](CN(C=O)OCC2=CC=CC=C2)CCCCC)C | C24H31N3O5
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-[(R)-2-(N′-Benzo[1,3]dioxol-5-yl-methyl-hydrazinocarbonyl)-heptyl]-N-hydroxy-formamide | 0.10 g, 57% | O1COC2=C1C=CC(=C2)N(NC(=O)[C@@H](CN(C=O)O)CCCCC)C | C17H25N3O5
